US04703052
To a solution of sodium ethoxide prepared from 28 g sodium metal and 500 ml absolute ethanol was added 122 g (1 mole) salicylaldehyde and 200 ml dimethylformamide. The mixture was heated to 80° C. Then 200 g (1 mole) alpha-bromoacetophenone was added in small portions. The mixture was stirred at reflux for 1.5 hours after which the ethanol was distilled. The residue was cooled and partitioned between 750 ml water and 750 ml ethyl acetate. The organic layer was washed twice with 400 ml portions of 1N sodium hydroxide, water (2×300 ml), dried (Na2SO4), concentrated to one-third volume, filtered to remove precipitated product which was washed with ethyl ether to yield 75.8 g of 2-benzoylbenzo(b)furan as pink crystals, m.p. 88°-90° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 28 g | [Na] | Na
reactant | salicylaldehyde | 1 mole, 122 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | alpha-bromoacetophenone | 1 mole, 200 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-benzoylbenzo(b)furan | 75.8 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(O1)C=CC=C2 | C15H10O2
